US08293913B2
(3aR,6aS)-tert-butyl 5-(3-(3-(trifluoromethyl)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
The title compound was prepared by analogy to the procedure of Example 1.3, except using (3aR,6aS)-tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate and 8-iodo-3-(3-(trifluoromethyl)phenylsulfonyl)quinoline. 107 mg (60%) of the title compound were obtained as a pale yellow solid.

reactant | (3aR,6aS)-tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | C1N(C[C@@H]2[C@H]1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 8-iodo-3-(3-(trifluoromethyl)phenylsulfonyl)quinoline | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C16H9F3INO2S
product | (3aR,6aS)-tert-butyl 5-(3-(3-(trifluoromethyl)phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 107 mg, 60% | FC(C=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C)(F)F | C27H28F3N3O4S
